US07309718B2
In 300 ml of acetonitrile was dissolved 14.7 g (65 mmol) of (5,6,7,8-tetrahydroquinolin-2-yl)methyl bromide, and 25.5 g (97.5 mmol) of triphenylphosphine was added to the mixture and the resulting mixture was refluxed for 2 hours. After cooling the mixture with an ice-bath, precipitates were collected by filtration and washed with diethyl ether to obtain (5,6,7,8-tetrahydroquinolin-2-yl)methyltriphenylphosphonium bromide as pale yellowish solid. Then, the obtained solid was dissolved in 250 ml of chloroform, 9.50 g (117 mmol) of 37% formaldehyde and 8.10 g (76 mmol) of an aqueous sodium carbonate solution (20 ml) were added to the solution and the mixture was stirred at room temperature for 2 hours.

reactant | (5,6,7,8-tetrahydroquinolin-2-yl)methyl bromide | 65 mmol, 14.7 g | N1=C(C=CC=2CCCCC12)CBr | C10H12BrN
reactant | triphenylphosphine | 97.5 mmol, 25.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | (5,6,7,8-tetrahydroquinolin-2-yl)methyltriphenylphosphonium bromide | [Br-].N1=C(C=CC=2CCCCC12)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C28H27NP.BrH/c1-4-13-25(14-5-1)30(26-15-6-2-7-16-26,27-17-8-3-9-18-27)22-24-21-20-23-12-10-11-19-28(23)29-24;/h1-9,13-18,20-21H,10-12,19,22H2;1H/q+1;/p-1
